US04593115
In 80 ml of acetonitrile is dissolved 6 g of sodium iodide and, then, 5 g of cyclohexanecarbonyl chloride is added dropwise to the solution under ice-cooling. This mixture is stirred at 0° C. for 30 minutes. Then, insoluble matters are removed by filtration and the filtrate is concentrated under reduced pressure. To the residue is added 20 ml of petroleum ether and insoluble matters are removed by filtration and the filtrate is subjected to distillation under reduced pressure to obtain 5.0 g of cyclohexanecarbonyl iodide. Yield: 61%. B.p. 75°-80° C./5 mmHg [b.p. 103°-105° C./11 mmHg according to "Bull. Chem. Soc. Japan" 34, 480 (1961)].

reactant | sodium iodide | 6 g | [I-].[Na+]
reactant | cyclohexanecarbonyl chloride | 5 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | cyclohexanecarbonyl iodide | 5.0 g, Yield: 61% | C1(CCCCC1)C(=O)I | C7H11IO
